US08383637B2
3-(5-Benzoyl-2-nitro-benzylamino)-N-cyclohexyl-N-methyl-propionamide
A mixture of 5-benzoyl-2-nitro-benzaldehyde (10 g, 0.0390 mol), a known compound (which may be prepared as disclosed in European Patent EP 371564) and 3-amino-N-cyclohexyl-N-methyl-propionamide (7.5 g, 0.0410 mol) in 1,2-dichloroethane (250 mL) was stirred at room temperature under nitrogen. Sodium triacetoxyborohydride (8.7 g, 0.0410 mol) was added, and the reaction mixture was stirred for 6 h at room temperature. Saturated NaHCO3 solution (200 mL) was then added. The organic layer was separated, dried, and evaporated. The resulting residue was purified by column chromatography on silica gel (eluent: 99:1 CH2Cl2:MeOH). The purest fractions were combined, and the solvent was evaporated to yield a residue.

reactant | 5-benzoyl-2-nitro-benzaldehyde | 0.0390 mol, 10 g | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C14H9NO4
reactant | 3-amino-N-cyclohexyl-N-methyl-propionamide | 0.0410 mol, 7.5 g | NCCC(=O)N(C)C1CCCCC1 | C10H20N2O
reactant | Sodium triacetoxyborohydride | 0.0410 mol, 8.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 250 mL | ClCCCl | C2H4Cl2
product | 3-(5-Benzoyl-2-nitro-benzylamino)-N-cyclohexyl-N-methyl-propionamide | C(C1=CC=CC=C1)(=O)C=1C=CC(=C(CNCCC(=O)N(C)C2CCCCC2)C1)[N+](=O)[O-] | C24H29N3O4
